US06531492B1
2-METHYLSULFONYL-5-HYDRAZINOPYRIMIDINE HYDROCHLORIDE
2-Methylsulfonyl-5-hydrazinopyrimidine (2.0 g, 0.011 mol, J. Vavrina et al., Collection Czechoslov. Chem. Commun., 37, 1721 (1972)) was treated with 10% methanolic HCl, and volatiles were removed by evaporation. The precipitate was collected by filtration to give 1.8 g (78%) of the title compound.

reactant | 2-Methylsulfonyl-5-hydrazinopyrimidine | 0.011 mol, 2.0 g | CS(=O)(=O)C1=NC=C(C=N1)NN | C5H8N4O2S
reactant | HCl | Cl | ClH
product | 2-METHYLSULFONYL-5-HYDRAZINOPYRIMIDINE HYDROCHLORIDE | 1.8 g, 78% | Cl.CS(=O)(=O)C1=NC=C(C=N1)NN | InChI=1S/C5H8N4O2S.ClH/c1-12(10,11)5-7-2-4(9-6)3-8-5;/h2-3,9H,6H2,1H3;1H
